US07897597B2
A solution of 6-benzyloxy-4-chloro-3-nitroquinoline (14.47 g, 46.29 mmol), prepared in Parts A-D of Example 57, and triethylamine (8.4 mL, 60.2 mmol) in dichloromethane (200 mL) was cooled to 0° C. tert-Butyl N-(4-aminobutyl)carbamate (8.71 g, 46.3 mmol) was added; the reaction was stirred for 15 minutes at 0° C. and then allowed to warm to ambient temperature and stirred for five hours. An analysis by TLC indicated the presence of starting material; therefore, additional tert-butyl N-(4-aminobutyl)carbamate (0.5 mL, 2.6 mmol) was added. The reaction was stirred overnight and then washed with water (2×200 mL). The combined washings were extracted with chloroform after the addition of sodium chloride. The combined organic solutions were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was recrystallized from ethyl acetate (100 mL). The crystals were isolated by filtration and washed with cold hexanes to provide 17.62 g of tert-butyl [4-(6-benzyloxy-3-nitroquinolin-4-ylamino)butyl]carbamate as an orange powder.

reactant | 6-benzyloxy-4-chloro-3-nitroquinoline | 46.29 mmol, 14.47 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])Cl | C16H11ClN2O3
reactant | triethylamine | 60.2 mmol, 8.4 mL | C(C)N(CC)CC | C6H15N
reactant | tert-Butyl N-(4-aminobutyl)carbamate | 46.3 mmol, 8.71 g | NCCCCNC(OC(C)(C)C)=O | C9H20N2O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | tert-butyl N-(4-aminobutyl)carbamate | 2.6 mmol, 0.5 mL | NCCCCNC(OC(C)(C)C)=O | C9H20N2O2
product | tert-butyl [4-(6-benzyloxy-3-nitroquinolin-4-ylamino)butyl]carbamate | 17.62 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])NCCCCNC(OC(C)(C)C)=O | C25H30N4O5
